US08487112B2
To a solution of 30 g of ethyl 4-chloroacetoacetate in 90 ml of toluene and 30 ml of ethanol are added 2 ml of acetic acid. At 10° C.-30° C., with cooling, 8.9 g of ethylamine are added dropwise. Subsequently, the mixture is stirred at room temperature for 6 h and the solvent is removed under reduced pressure at temperatures of down to 35° C. 37.7 g of ethyl 4-chloro-3-(ethylamino)but-2-enecarboxylate are obtained in a purity of 88% (this corresponds to 98% yield).

reactant | ethyl 4-chloroacetoacetate | 30 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | ethylamine | 8.9 g | C(C)N | C2H7N
reactant | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | ethyl 4-chloro-3-(ethylamino)but-2-enecarboxylate | 37.7 g, 98% yield | ClCC(=CCC(=O)OCC)NCC | C9H16ClNO2
